US09290485B2
To a solution of (1,2-Dimethyl-1H-indol-5-yl)methanol (crude, 250 mg, 76%, 1.084 mmol), Ethyl 1H-pyrazole-4-carboxylate (266 mg, 1.898 mmol) and Triphenylphosphine (341 mg, 1.3 mmol) in toluene (10.5 ml) Diethyl azodicarboxylate (206 ul, 1.3 mmol) was added at rt. The reaction mixture was stirred at rt for 16 hours. The reaction mixture was quenched with brine and extracted twice with DCM. The combined organic layers were dried over Na2SO4, filtered and concentrated under vacuum. The crude product was purified by flash-chromatography on silica gel (60 g), gradient of cyclohexane/EA (50 ml/min.) from 100/0 (3 min.) to 70/30 (20 min.) to afford pure ethyl 1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxylate. MS (Method V) [M+H]+=298.4.

reactant | (1,2-Dimethyl-1H-indol-5-yl)methanol | 1.084 mmol, 250 mg | CN1C(=CC2=CC(=CC=C12)CO)C | C11H13NO
reactant | Ethyl 1H-pyrazole-4-carboxylate | 1.898 mmol, 266 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | Triphenylphosphine | 1.3 mmol, 341 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 1.3 mmol, 10.5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxylate | CN1C(=CC2=CC(=CC=C12)CN1N=CC(=C1)C(=O)OCC)C | C17H19N3O2
